US05866592
β-n-butyl-α,α-dimethyl-β-alanine hydrochloride (3.65 g, 17.40 mmol) was dissolved into 10% aqueous sodium carbonate (18.4 ml). To the resulting solution was added dioxane solution (50 ml) of di-t-butylcarbonate (4.6 g, 20.87 mmol) under cooling with ice and stirred at room temperature overnight. The solvent was distilled off and the resulting residue was dissolved into water, washed with ether and adjusted to pH 3 with citric acid under cooling with ice, followed by the several times of ethyl acetate extraction. The combined organic layer was washed with brine, dried over anhydrous sodium sulfate. The solvent were removed in vacuo, and recrystallized from ether-hexane mixed solvent to give crystal of N-Boc-β-n-butyl-α,α-dimethyl-β-alanine (3.16 g, 66.4%).

reactant | β-n-butyl-α,α-dimethyl-β-alanine hydrochloride | 17.40 mmol, 3.65 g | Cl.C(CCC)C(N)C(C(=O)O)(C)C
reactant | sodium carbonate | 18.4 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-t-butylcarbonate | 20.87 mmol, 4.6 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-Boc-β-n-butyl-α,α-dimethyl-β-alanine | 3.16 g, 66.4% | C(=O)(OC(C)(C)C)NC(C(C(=O)O)(C)C)CCCC | C14H27NO4
